US05412088
To 2 mmol of deoxyguanosine, dried by evaporation of pyridine and suspended in 10 mL of dry pyridine was added dropwise 2.3 mL (16 mmol) of trifluoroacetic anhydride, with cooling in an ice both. After ten minutes a suspension of 4.3 g of sodium methoxide in 300 mL of methanol was added dropwise. After a further 24 hrs, the mixture was treated with a solution of pyridine hydrochloride (12 mL of pyridine/4 mL conc HCl). The excess acid was destroyed by addition of 2 g of sodium bicarbonate and the mixture was evaporated to dryness. The residue was dissolved in water and purified on a Dynamax reversed-phase hplc column using a gradient of 2-5% acetonitrile in water in 45 min at a flow rate of 6 mL/min. Evaporation of appropriate fractions gave 0.36 g (60%) of pure 2-amino-6-methoxy-9-(2-deoxy-Beta-D-erythro-pentofuranosyl)purine. A crystalline sample was obtained by crystallization from water, mp 155°-7°. UVmax (MeOH) 281 nm; UVmin 281 nm; 1H NMR (DMSO-d6) delta (ppm) 8.07 (s, 1,H8), 6.43 (br s, 2, NH2), 6.20("t", 1, Japp =6.9 Hz, H1'), 5.27 (d, 1, J=3.8 Hz, 3'-OH), 4.98 (t, 1, J=5.5 Hz, 5'-OH) , 4.35 (m,1,H3'), 4.00 (s, 3, OCH3), 3.82 (m, 1, H4'), 3.53 (m, 2, H5',5'), 2.57 & 2.22 (m & m, 1 & 1, H2' & H2"). Anal. Calcd. for C11H15N5O4.H2O: C, 44.15; H, 5.72; N, 23.40. Found: C, 44.15; H, 5.83; N, 23.43.

reactant | deoxyguanosine | 2 mmol | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O4
reactant | trifluoroacetic anhydride | 16 mmol, 2.3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium methoxide | 4.3 g | C[O-].[Na+]
reactant | pyridine hydrochloride | 12 mL | Cl.N1=CC=CC=C1
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 300 mL | CO | CH4O
product | 2-amino-6-methoxy-9-(2-deoxy-Beta-D-erythro-pentofuranosyl)purine | 0.36 g, 60% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](O)[C@H](O1)CO)OC | C11H15N5O4
